US09428510B2
0.377 ml (2.63 mmol) of 35% hydrazine is added to 0.217 g (0.658 mmol) of 6-chloro-5-cyano-N-(3,5-difluorophenyl)pyridine-3-sulfonamide diluted in 6 ml of isopropanol. The solution is heated at 75° C. for 2 hours. The solvent is evaporated to yield 0.214 g of 3-amino-N-(3,5-difluorophenyl)-1H-pyrazolo[3,4-b]pyridine-5-sulfonamide in the form of a yellow solid (yield=100%).

reactant | hydrazine | 2.63 mmol, 0.377 ml | NN | H4N2
reactant | 6-chloro-5-cyano-N-(3,5-difluorophenyl)pyridine-3-sulfonamide | 0.658 mmol, 0.217 g | ClC1=C(C=C(C=N1)S(=O)(=O)NC1=CC(=CC(=C1)F)F)C#N | C12H6ClF2N3O2S
solvent | isopropanol | 6 ml | C(C)(C)O | C3H8O
product | 3-amino-N-(3,5-difluorophenyl)-1H-pyrazolo[3,4-b]pyridine-5-sulfonamide | 0.214 g | NC1=NNC2=NC=C(C=C21)S(=O)(=O)NC2=CC(=CC(=C2)F)F | C12H9F2N5O2S
